GF180MCU dnwps diode I-V, area=50um2 perim=102um, ff corner, -40C
* Rendered from models/ngspice/testing/regression/diode/device_netlists/iv.spice
* (GlobalFoundries PDK, Apache-2.0). Two deliberate departures from upstream:
* the `.control` block is replaced by an equivalent `.dc` card so the deck
* states its own analysis, and the sweep is taken from this device's measured
* bias points rather than the template's hardcoded np_3p3 range.
Vn n 0 dc 1
.temp -40
.options tnom=-40
dn1 n 0 dnwps AREA = 50p PJ = 102u
.dc Vn -40.41 1.41 0.41
.include "../../models/design.ngspice"
.lib "../../models/sm141064.ngspice" diode_ff
.end
